US08008327B2
To a solution of 2-methyl-propane-2-sulfinic acid [(S)-1-(6-bromo-pyridin-3-yl)-propyl]-amide (5.35 g, 16.8 mmol) in methanol (25 mL) was added a solution of 4 N HCl in dioxane (10.0 mL, 40.0 mmol). The mixture was monitored by TLC for the disappearance of starting material (ethyl acetate-hexanes 3:7). After 2 hours, the mixture was concentrated to near dryness to afford a white solid which was diluted with diethylether and collected by filtration to afford (S)-1-(6-bromo-pyridin-3-yl)-propylamine hydrochloride.

reactant | 2-methyl-propane-2-sulfinic acid [(S)-1-(6-bromo-pyridin-3-yl)-propyl]-amide | 16.8 mmol, 5.35 g | BrC1=CC=C(C=N1)[C@H](CC)NS(=O)C(C)(C)C | C12H19BrN2OS
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 40.0 mmol, 10.0 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 25 mL | CO | CH4O
solvent | diethylether | C(C)OCC | C4H10O
product | (S)-1-(6-bromo-pyridin-3-yl)-propylamine hydrochloride | Cl.BrC1=CC=C(C=N1)[C@H](CC)N | InChI=1S/C8H11BrN2.ClH/c1-2-7(10)6-3-4-8(9)11-5-6;/h3-5,7H,2,10H2,1H3;1H/t7-;/m0./s1
